US09416135B2
To a solution of (2-(5-acetyl-4-(trifluoromethyl)pyrimidin-2-yl)-1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydropyrazino[1,2-a]indol-8-yl)methyl acetate (37 mg, 67 μmol) in dry THF (2 mL) was added LaCl3.2 LiCl THF solution (0.12 mL, 70 μmol). The resulting mixture was stirred for 20 min at rt. The reaction mixture was cooled down to 0° C., MeMgCl in THF solution (3.0 M, 0.15 mL) was added slowly and the reaction mixture was allowed to stir at the same temperature for 0.5 h. Sat. aq. NH4Cl (1 mL) and water (2 mL) were added. The aqueous layer was extracted with EtOAc (4×10 mL). Combined organic phases were dried (Na2SO4) and concentrated. The crude residue was purified by silica chromatography and SFC separation to give isomers of 2-(2-(8-(hydroxymethyl)-1-isopropyl-7-(methylsulfonyl)-3,4-dihydropyrazino[1,2-a]indol-2(1H)-yl)-4-(trifluoromethyl)pyrimidin-5-yl)propan-2-ol.

reactant | (2-(5-acetyl-4-(trifluoromethyl)pyrimidin-2-yl)-1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydropyrazino[1,2-a]indol-8-yl)methyl acetate | 67 μmol, 37 mg | C(C)(=O)OCC1=CC=2C=C3N(C2C=C1S(=O)(=O)C)CCN(C3C(C)C)C3=NC=C(C(=N3)C(F)(F)F)C(C)=O | C25H27F3N4O5S
reactant | LiCl THF | 70 μmol, 0.12 mL | [Li+].[Cl-].C1CCOC1
reactant | MeMgCl | C[Mg]Cl
reactant | NH4Cl | 1 mL | [NH4+].[Cl-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 3.0 M, 0.15 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | 2-(2-(8-(hydroxymethyl)-1-isopropyl-7-(methylsulfonyl)-3,4-dihydropyrazino[1,2-a]indol-2(1H)-yl)-4-(trifluoromethyl)pyrimidin-5-yl)propan-2-ol | OCC1=CC=2C=C3N(C2C=C1S(=O)(=O)C)CCN(C3C(C)C)C3=NC=C(C(=N3)C(F)(F)F)C(C)(C)O | C24H29F3N4O4S
